* source MRL_NOVEL
V_Vdd         VDD 0 5Vdc
V_Vin1         VIN1 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\test\v1.txt" 
M_T4         N01597 VIN1 VDD VDD Mbreakp           
M_M3         N01597 VIN1 VIN1 0 Mbreakn           
