* source MRL_NAND_XOR
V_Vin2         VIN2 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\xor_nor\v2.txt" 
V_V1         VDD 0 5Vdc
V_Vin1         VIN1 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\xor_nor\v1.txt" 
M_T6         VOUT N32120 0 0 Mbreakn           
M_T2         VINT1 N31968 VDD VDD Mbreakp           
M_T1         VINT1 N31968 0 0 Mbreakn           
M_T3         VINT2 N32032 VDD VDD Mbreakp           
M_T5         VOUT N32120 VDD VDD Mbreakp           
M_T4         VINT2 N32032 0 0 Mbreakn           
M_T7         N33702 VIN2 VDD VDD Mbreakp           
M_T8         N33702 VIN2 0 0 Mbreakn           
M_T10         N33706 VIN1 0 0 Mbreakn           
M_T9         N33706 VIN1 VDD VDD Mbreakp           
X_M29         N31968 N33706 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M30         N31968 N33702 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M31         N32032 VIN1 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M32         N32032 VIN2 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M33         N32120 VINT2 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M34         N32120 VINT1 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
