* source MRL_NOVEL
V_V1         VDD 0 5Vdc
V_V2         VIN1 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\xor_novel_1\v1.txt" 
V_V3         VIN2 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\xor_novel_1\v2.txt" 
M_M14         VOUT VIN1 VINT1 VDD MbreakP           
M_M15         VOUT VIN2 VINT1 VDD MbreakP           
M_M17         VOUT VIN1 N288640 0 MbreakN           
M_T7         N288640 VIN2 0 0 Mbreakn           
X_M29         VINT1 VIN2 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
X_M30         VINT1 VIN1 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
