* source XOR_UNBUF
V_V1         VDD 0 5Vdc
V_Vin1         VIN1 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\xor_unbuf\v1.txt" 
V_Vin2         VIN2 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\xor_unbuf\v2.txt" 
M_T6         VOUT N26012 0 0 Mbreakn           
M_T3         N26012 VOUT_UNBUF 0 0 Mbreakn           
M_T1         N25904 N25760 VDD VDD Mbreakp           
M_T5         VOUT N26012 VDD VDD Mbreakp           
M_T4         N26012 VOUT_UNBUF VDD VDD Mbreakp           
M_T2         N25904 N25760 0 0 Mbreakn           
X_M32         VINT VOUT_UNBUF VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M33         N25904 VOUT_UNBUF VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M34         VIN2 N25760 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M35         VIN1 N25760 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M36         VINT VIN2 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
X_M37         VINT VIN1 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
